US06458796B1
3-(1-Methyl-4-phenyl-butyl)-5-pyridin-4-ylmethyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 1, the title compound is prepared from 1.0 g (3.8 mmol) of 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide and 2.21 g (14.6 mmol) of methyl 4-pyridylacetate.

reactant | 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | 3.8 mmol, 1.0 g | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
reactant | methyl 4-pyridylacetate | 14.6 mmol, 2.21 g | N1=CC=C(C=C1)CC(=O)OC | C8H9NO2
product | 3-(1-Methyl-4-phenyl-butyl)-5-pyridin-4-ylmethyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | CC(CCCC1=CC=CC=C1)N1N=NC2=C1N=C(NC2=O)CC2=CC=NC=C2 | C21H22N6O
